US09212163B2
Preparation of tert-Butyl 1-amino-N-(2,2,2-trifluoroethyl)cyclopropanecarboxamide hydrochloride
To tert-butyl(1-((2,2,2-trifluoroethyl)carbamoyl)cyclopropyl)carbamate (3.2 g, 11 mmol) in CH2Cl2 (20 mL) was added 4 M HCl in dioxane (20 mL). The solution was stirred for 18 h at ambient temperature. The reaction mixture was concentrated in vacuo and the residue placed in a 60° C. vacuum oven (24 h) to afforded the title compound as an off-white solid (2.3 g, 93%): 1H NMR (400 MHz, DMSO-d6) δ 8.77 (bs, 3H), 8.50 (t, J=6.3 Hz, 1H), 3.90 (qd, J=9.7, 6.1 Hz, 2H), 1.52-1.15 (m, 4H); 19F NMR (376 MHz, DMSO-d6) δ −70.54; 13C NMR (101 MHz, DMSO-d6) δ 175.33, 132.46 (q, J=280.8 Hz), 45.13 (q, J=34.34 Hz), 40.06, 17.57.

reactant | tert-butyl(1-((2,2,2-trifluoroethyl)carbamoyl)cyclopropyl)carbamate | 11 mmol, 3.2 g | C(C)(C)(C)OC(NC1(CC1)C(NCC(F)(F)F)=O)=O | C11H17F3N2O3
reactant | HCl | 4 M | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 1-amino-N-(2,2,2-trifluoroethyl)cyclopropanecarboxamide hydrochloride | 2.3 g, 93% | Cl.C(C)(C)(C)C1C(C1)(C(=O)NCC(F)(F)F)N | InChI=1S/C10H17F3N2O.ClH/c1-8(2,3)6-4-9(6,14)7(16)15-5-10(11,12)13;/h6H,4-5,14H2,1-3H3,(H,15,16);1H
